US05101048
Preparation of 2-nitrophenyl 5-thio-β-D-xylopyranoside (Example 28)
If the procedure described in Preparation LXXXIV is followed starting from 0.85 g (2.05.10-3 mol) of 2-nitrophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside and 0.1 ml of a solution of sodium methylate in methanol (8% w/v of Na), reacted in 50 ml of methanol for 30 min, 0.4 g (yield: 68%) of the expected product is obtained after precipitation in ether and lyophilization.

reactant | 2-nitrophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 0.85 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)[N+](=O)[O-])SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19NO9S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-nitrophenyl 5-thio-β-D-xylopyranoside | 0.4 g, yield: 68% | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=C(C=CC=C1)[N+](=O)[O-] | C11H13NO6S
